US07737177B2
Preparation of Mupirocin Calcium Dihydrate
Amorphous mupirocin calcium (5.00 g, 4.80 mmole) was dissolved in methanol (15 ml) and stirred to give a clear solution. Water (10 ml) was added to the solution. Methanol from the solution was evaporated at reduced pressure to give a final volume of 7 ml. The mupirocin calcium solution was allowed to crystallize for 60 h at 5° C. The crystalline product was filtered and washed with water (5 ml). The product was dried at 30° C. for 12 h.

reactant | mupirocin calcium | 4.80 mmole, 5.00 g | C[C@@H]([C@@H](O)C)[C@@H]1O[C@H]1C[C@@H]2[C@H]([C@H]([C@@H](OC2)C/C(=C/C(=O)OCCCCCCCCC(=O)[O-])/C)O)O.C[C@@H]([C@@H](O)C)[C@@H]1O[C@H]1C[C@@H]2[C@H]([C@H]([C@@H](OC2)C/C(=C/C(=O)OCCCCCCCCC(=O)[O-])/C)O)O.[Ca+2]
reactant | Water | 10 ml | O | H2O
solvent | methanol | 15 ml | CO | CH4O
product | Mupirocin Calcium Dihydrate | C[C@@H]([C@@H](O)C)[C@@H]1O[C@H]1C[C@@H]2[C@H]([C@H]([C@@H](OC2)C/C(=C/C(=O)OCCCCCCCCC(=O)[O-])/C)O)O.C[C@@H]([C@@H](O)C)[C@@H]1O[C@H]1C[C@@H]2[C@H]([C@H]([C@@H](OC2)C/C(=C/C(=O)OCCCCCCCCC(=O)[O-])/C)O)O.O.O.[Ca+2] | InChI=1S/2C26H44O9.Ca.2H2O/c2*1-16(13-23(30)33-11-9-7-5-4-6-8-10-22(28)29)12-20-25(32)24(31)19(15-34-20)14-21-26(35-21)17(2)18(3)27;;;/h2*13,17-21,24-27,31-32H,4-12,14-15H2,1-3H3,(H,28,29);;2*1H2/q;;+2;;/p-2/b2*16-13+;;;/t2*17-,18-,19-,20-,21-,24+,25-,26-;;;/m00.../s1
